US04001199
Production of β-Ala-Arg-Gly-Phe-Phe-Tyr-Leu-OH
Amino acid analysis: Arg, 1.00; Gly, 1.04; Leu, 1.08; Phe, 2.16; Tyr, 0.88; β-Ala, 1.04(peptide content 85.9 %).

reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | β-Ala | NCCC(=O)O | C3H7NO2
product | β-Ala-Arg-Gly-Phe-Phe-Tyr-Leu-OH | NCCC(=O)N[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CC(C)C)C(=O)O | C44H60N10O9
